US06768019B2
Preparation of (E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one O-acetyl-oxime
(E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one oxime (25 mg, 0.076 mmol) and acetylbromide (0.017 ml, 0.23 mmol) were added into dichloromethane (2.0 ml). Then, at room temperature triethylamine (0.032 ml, 0.23 mmol) was added, stirred for an hour so as to complete the reaction. Afterward, an organic layer was separated by blending water, washed again with water and saturated brine, and then dried over anhydrous magnesium sulfate. The resulting solution was concentrated under reduced pressure and made to crystal by using a mixed organic solvent (diethylether/isopropanol/n-hexane=1/1/5, v/v/v). As a result, 16.9 mg of the present compound (productive yield 60%) was obtained as a white solid crystal.

reactant | (E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one oxime | 0.076 mmol, 25 mg | CS(=O)(=O)C1=CC=C(C=C2/C(/CCC3=CC=CC=C23)=N/O)C=C1 | C18H17NO3S
reactant | acetylbromide | 0.23 mmol, 0.017 ml | C(C)(=O)Br | C2H3BrO
reactant | triethylamine | 0.23 mmol, 0.032 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | (E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one O-acetyl-oxime | 16.9 mg, yield 60% | C(C)(=O)O\N=C/1\C(C2=CC=CC=C2CC1)=CC1=CC=C(C=C1)S(=O)(=O)C | C20H19NO4S
